US07071184B2
f. Racemic (2R,5S,6S)-5-Azido-6-hydroxy-2-methyl-azepane-1-carboxylic acid benzyl ester
Sodium azide (0.56 g, 8.62 mmol) was added to a solution of racemic (1S,4R,7R)-4-methyl-8-oxa-3-aza-bicyclo[5.1.0]octane-3-carboxylic acid benzyl ester (0.75 g, 2.87 mmol) and ammonium chloride (0.46 g, 8.62 mmol) in MeOH (5 ml) and H2O (0.5 ml), then was refluxed for 6 h. The reaction mixture was concentrated in vacuo by rotary evaporation, then was diluted with water (5 ml) and extracted with EtOAc (10 ml). The organic layer was then extracted with water, brine, dried with MgSO4, filtered, concentrated in vacuo by rotary evaporation, and chromatographed (silica gel, 20% EtOAc/hexanes) to yield the title compound (0.7 g, 80%): 7.39–7.30 (m, 5H), 5.15 (2H, s), 4.10–3.67 (m, 2H), 3.10 (1H, d), 1.85–1.53 (m, 4H), 1.09 (3H, d); Liquid Chromatgraphy/Electrospray mass spec: M+H+=305.2.

reactant | Sodium azide | 8.62 mmol, 0.56 g | [N-]=[N+]=[N-].[Na+]
reactant | racemic (1S,4R,7R)-4-methyl-8-oxa-3-aza-bicyclo[5.1.0]octane-3-carboxylic acid benzyl ester | 2.87 mmol, 0.75 g | C(C1=CC=CC=C1)OC(=O)N1CC2OC2CCC1C | C15H19NO3
reactant | ammonium chloride | 8.62 mmol, 0.46 g | [Cl-].[NH4+]
solvent | MeOH | 5 ml | CO | CH4O
solvent | H2O | 0.5 ml | O | H2O
product | Racemic (2R,5S,6S)-5-Azido-6-hydroxy-2-methyl-azepane-1-carboxylic acid benzyl ester | 0.7 g, 80% | C(C1=CC=CC=C1)OC(=O)N1C(CCC(C(C1)O)N=[N+]=[N-])C | C15H20N4O3
